US06489344B1
2-Chloro-5-(trifluoromethyl)pyridine (5.0 g) was heated with ethylenediamine (20 ml) at 120° C. overnight. The excess ethylenediamine was removed by rotary evaporation and the residue was partitioned between dichloromethane and 2.5 M aqueous sodium hydroxide. The aqueous layer was extracted 5 times further with dichloromethane. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried, then concentrated in vacuo to give (2-aminoethyl)[5-(trifluoromethyl)(2-pyridyl)]amine as an orange oil.

reactant | 2-Chloro-5-(trifluoromethyl)pyridine | 5.0 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | ethylenediamine | 20 ml | C(CN)N | C2H8N2
product | (2-aminoethyl)[5-(trifluoromethyl)(2-pyridyl)]amine | NCCNC1=NC=C(C=C1)C(F)(F)F | C8H10F3N3
